US07951951B2
560 mg (1.61 mmol) of 4-[(6-chloropyridin-3-yl)methyl]-6-oxo-5,6,7,7a-tetrahydrofuro[3,2-b]-pyridin-2(4H)-one (Ex. 1-14) are dissolved in 14 ml of methanol, and 45 mg (1.20 mmol) of sodium borohydride are added at 0° C. The reaction mixture is stirred at 0° C. for one hour. After addition of 7.2 ml of 5% strength hydrochloric acid, the mixture is extracted with ethyl acetate. The organic phase is dried over sodium sulphate and concentrated under reduced pressure. Purification of the residue by column chromatography on silica gel (silica gel 60, Merck, particle size: 0.04 to 0.063 mm) using the solvent mixture dichloromethane:methanol (95:5) gives both possible diastereomers of 4-[(6-chloropyridin-3-yl)methyl]-6-hydroxy-5,6,7,7a-tetrahydrofuro-[3,2-b]pyridin-2(4H)-one: (a) 152 mg (34% of theory) of diastereomer A and (b) 63 mg (11% of theory) of diastereomer B.

reactant | 4-[(6-chloropyridin-3-yl)methyl]-6-oxo-5,6,7,7a-tetrahydrofuro[3,2-b]-pyridin-2(4H)-one | 1.61 mmol, 560 mg | ClC1=CC=C(C=N1)CN1C=2C(CC(C1)=O)OC(C2)=O | C13H11ClN2O3
reactant | sodium borohydride | 1.20 mmol, 45 mg | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 14 ml | CO | CH4O
product | 4-[(6-chloropyridin-3-yl)methyl]-6-hydroxy-5,6,7,7a-tetrahydrofuro-[3,2-b]pyridin-2(4H)-one | ClC1=CC=C(C=N1)CN1C=2C(CC(C1)O)OC(C2)=O | C13H13ClN2O3
